US04246429
To a stirred mixture of 2.9 parts of 2,6-dichloro-α-[(2-methylphenyl)imino]benzeneacetonitrile in 50 parts of methanol are added portionwise 0.2 parts of sodium borohydride. Upon completion the mixture is stirred during 0.5 hours and 100 parts of water are added. The precipitated produce is filtered off and recrystallized from 30 parts of 2-propanol, yielding 2.4 parts (82.1%) of 2,6-dichloro-α-[(2-methylphenyl)amino]benzeneacetonitrile; mp. 107.7° C.

reactant | 2,6-dichloro-α-[(2-methylphenyl)imino]benzeneacetonitrile | ClC1=C(C(=CC=C1)Cl)C(C#N)=NC1=C(C=CC=C1)C | C15H10Cl2N2
reactant | methanol | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 2,6-dichloro-α-[(2-methylphenyl)amino]benzeneacetonitrile | 82.1% | ClC1=C(C(=CC=C1)Cl)C(C#N)NC1=C(C=CC=C1)C | C15H12Cl2N2
